US09403801B2
Step 4) 3-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a suspension 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro [5.5]undecan-9-yl)pyrimidine-2,4-diamine (165 mg, 0.42 mmol) and 2-cyanoacetic acid (107.18 mg, 1.26 mmol) in a mixture of DCM and N,N-dimethylformamide (8 mL/2 mL) were added O-(7-aza-1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (85.75 mg, 0.63 mmol) and N,N-diethylethanamine (127.50 mg, 1.26 mmol). The mixture was stirred at rt overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 10/1) to give the title compound as a yellow solid (30 mg, 15.54%).

reactant | 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro [5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.42 mmol, 165 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCNCC2)CC1)C | C19H28ClN7
reactant | 2-cyanoacetic acid | 1.26 mmol, 107.18 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-aza-1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.63 mmol, 85.75 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diethylethanamine | 1.26 mmol, 127.50 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 3-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 30 mg, 15.54% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCN(CC2)C(CC#N)=O)CC1)C | C22H29ClN8O
